US06914074B2
1-Chloro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 1-chloro-2-methoxy-6-(4-methoxyphenyl)naphthalene (0.32 g, 1.07 mmol) with pyridinium HCl (7 g) at 190° C. according to method B to yield 0.12 g (41%) of an off white solid: mp 222-224° C. (dec.);

reactant | 1-chloro-2-methoxy-6-(4-methoxyphenyl)naphthalene | 1.07 mmol, 0.32 g | ClC1=C(C=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC)OC | C18H15ClO2
reactant | pyridinium HCl | 7 g | Cl.[NH+]1=CC=CC=C1
product | 1-Chloro-6-(4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=CC=C(C=C1)O)O | C16H11ClO2
